US07994185B2
Step A: Ethyl 3-{[(2,6-difluorophenyl)sulfonyl]amino}-4-fluorobenzoate
To a solution of ethyl 3-amino-4-fluorobenzoate (5.47 g, 30 mmol) and pyridine (2.55 mL, 33 mmol) in DCM (150 mL) was added 2,6-difluorobenzenesulfonyl chloride (4.45 mL, 33 mmol). The reaction was stirred overnight at rt. After 16 h, the reaction mixture was concentrated, triturated with ether, and dried in vacuo to generate 7.87 g (66% yield) of the product of Step A as a white powder. MS (ESI): 360 (M+H).

reactant | ethyl 3-amino-4-fluorobenzoate | 30 mmol, 5.47 g | NC=1C=C(C(=O)OCC)C=CC1F | C9H10FNO2
reactant | pyridine | 33 mmol, 2.55 mL | N1=CC=CC=C1 | C5H5N
reactant | 2,6-difluorobenzenesulfonyl chloride | 33 mmol, 4.45 mL | FC1=C(C(=CC=C1)F)S(=O)(=O)Cl | C6H3ClF2O2S
solvent | DCM | 150 mL | C(Cl)Cl | CH2Cl2
product | Ethyl 3-{[(2,6-difluorophenyl)sulfonyl]amino}-4-fluorobenzoate | 7.87 g, 66% yield | FC1=C(C(=CC=C1)F)S(=O)(=O)NC=1C=C(C(=O)OCC)C=CC1F | C15H12F3NO4S
